US06962940B2
10% Pd/C (2.5 g), 3-nitrophthalic acid (75.0 g, 355 mmol) and ethanol (1.5 L) were charged to a 2.5 L Parr hydrogenator, under a nitrogen atmosphere. Hydrogen was charged to the reaction vessel for up to 55 psi. The mixture was shaken for 13 hours, maintaining hydrogen pressure between 50 and 55 psi. Hydrogen was released and the mixture was purged with nitrogen 3 times. The suspension was filtered through a celite bed and rinsed with methanol. The filtrate was concentrated in vacuo. The resulting solid was reslurried in ether and isolated by vacuum filtration. The solid was dried in vacua to a constant weight, affording 54 g (84% yield) of 3-aminopthalic acid as a yellow product. 1H-NMR (DMSO-d6) δ: 3.17 (s, 2H), 6.67 (d, 1H), 6.82 (d, 1H), 7.17 (t, 1H), 8-10 (brs, 2H). 13C-NMR(DMSO-d6)δ: 112.00, 115.32, 118.20, 131.28, 135.86, 148.82, 169.15, 170.09.

reactant | 3-nitrophthalic acid | 355 mmol, 75.0 g | [N+](=O)([O-])C1=C(C(C(=O)O)=CC=C1)C(=O)O | C8H5NO6
reactant | Hydrogen | [H][H] | H2
catalyst | Pd/C | 2.5 g | [Pd] | Pd
solvent | ethanol | 1.5 L | C(C)O | C2H6O
product | 3-aminopthalic acid | 54 g, 84% yield | NC1=C(C(C(=O)O)=CC=C1)C(=O)O | C8H7NO4
